US06410562B1
2-(3-Chloro-6-(2-thienyl)benzo[b]thiophen-2-yl)-4,5-dihydro-1H-imidazole (X=Cl, Y=6-(2-thienyl))
The compound was prepared in manner similar to that of Example 45 from 2-(6-bromo-3-chlorobenzo[b]thiophen-2-yl)-4,5-dihydro-1H-imidazole and thiophen-2-boronic acid.

reactant | 2-(6-bromo-3-chlorobenzo[b]thiophen-2-yl)-4,5-dihydro-1H-imidazole | BrC=1C=CC2=C(SC(=C2Cl)C=2NCCN2)C1 | C11H8BrClN2S
reactant | thiophen-2-boronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
product | 2-(3-Chloro-6-(2-thienyl)benzo[b]thiophen-2-yl)-4,5-dihydro-1H-imidazole | ClC=1C2=C(SC1C=1NCCN1)C=C(C=C2)C=2SC=CC2 | C15H11ClN2S2
